US04150139
To 0.522 g of 3-methylsulfonyl-11H-s-triazolo[3,4-b][3]benzazepine in 5 ml of methanol was added 3 ml of 2 N-sodium methoxide/methanol. The mixture was refluxed for 15 minutes and then the solvent was evaporated off. The residue was diluted with water and extracted with chloroform. The chloroform layer was washed with water and dried over Na2SO4. The solvent was then evaporated off and the residue was treated with isopropyl ether. By the above procedure was obtained 3-methoxy-11H-s-triazolo[3,4-b][3]benzazepine as crystals. Recrystallization from ethyl acetate-n-hexane yielded colorless prisms, melting point: 160°-161° C.

reactant | 3-methylsulfonyl-11H-s-triazolo[3,4-b][3]benzazepine | 0.522 g | CS(=O)(=O)C1=NN=C2CC3=C(C=CN21)C=CC=C3 | C12H11N3O2S
reactant | sodium methoxide methanol | C[O-].[Na+].CO
solvent | methanol | 5 ml | CO | CH4O
product | 3-methoxy-11H-s-triazolo[3,4-b][3]benzazepine | COC1=NN=C2CC3=C(C=CN21)C=CC=C3 | C12H11N3O
